US04356313
Ethyl [(5,6-dichloro-9a-cyclopropyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7yl)oxy]acetate (4.2 gm., 0.011 mole) is added to a solution composed of 20% aqueous sodium hydroxide solution (4.32 ml., 0.022 mole) and methanol (45 ml.). The mixture is stirred and heated at reflux for two hours and then concentrated in vacuo at 50° C. The residue is dissolved in water (50 ml.) and made acid to Congo red paper with 6 normal hydrochloric acid. The solid that separates is removed by filtration, washed with water, then with a little methanol and finally with a little ether. After drying, the product is recrystallized from acetic acid to give pure [(5,6-dichloro-3-oxo-9a-cyclopropyl-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetic acid.

reactant | Ethyl [(5,6-dichloro-9a-cyclopropyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7yl)oxy]acetate | 0.011 mole, 4.2 gm | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OCC(=O)OCC)C1CC1)=O | C20H20Cl2O4
reactant | sodium hydroxide | 0.022 mole, 4.32 ml | [OH-].[Na+]
solvent | methanol | 45 ml | CO | CH4O
product | [(5,6-dichloro-3-oxo-9a-cyclopropyl-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetic acid | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OCC(=O)O)C1CC1)=O | C18H16Cl2O4
